US07615562B2
Step B: 4-(4-Bromo-phenyl)-2-methanesulfinyl-pyrimidine
A solution of 4-(4-Bromo-phenyl)-2-methylsulfanyl-pyrimidine (1.1 g, 3.91 mmol) in DCM (33 ml) was cooled to 0° C. and treated within 1 hour with several portions of mCPBA (content 70%, 1.1 g, 4.46 mmol) under TLC-control. The reaction mixture was washed with 2N-solution of sodium carbonate, the organic phase dried over sodium sulfate, filtered and evaporated to dryness and purified by chromatography on silicagel (acetone/hexanes:50/50 to 75/25) to give the title compound as white crystals. Yield: 700 mg (60%).

reactant | 4-(4-Bromo-phenyl)-2-methylsulfanyl-pyrimidine | 3.91 mmol, 1.1 g | BrC1=CC=C(C=C1)C1=NC(=NC=C1)SC | C11H9BrN2S
reactant | mCPBA | 4.46 mmol, 1.1 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | DCM | 33 ml | C(Cl)Cl | CH2Cl2
product | 4-(4-Bromo-phenyl)-2-methanesulfinyl-pyrimidine | BrC1=CC=C(C=C1)C1=NC(=NC=C1)S(=O)C | C11H9BrN2OS
